* File: FullAdder.pex.netlist.pex
* Created: Thu Apr  9 18:51:38 2020
* Program "Calibre xRC"
* Version "v2017.3_29.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FULLADDER_NET15 1 2 8
c28 8 0 0.028383f
c29 2 0 0.0126923f
c30 1 0 0.0270992f
r31 8 9 102.4
r32 4 8 2.83036
r33 4 5 102.4
r34 2 9 1.38846
r35 1 5 1.38846
.ends

.subckt PM_FULLADDER_CIN 1 2 3 4 6 15 17 19 22 26 28 30 33 41 46 51
c55 51 0 0.00229928f
c56 33 0 0.0608302f
c57 28 0 0.0412454f
c58 26 0 0.0400466f
c59 22 0 0.0260454f
c60 17 0 0.0416599f
c61 15 0 0.0653229f
c62 6 0 0.00592388f
c63 4 0 0.00439596f
c64 3 0 0.00289518f
c65 2 0 0.00627958f
c66 1 0 0.00545387f
r67 31 33 108.81
r68 28 30 32.37
r69 24 26 122.85
r70 20 22 60.45
r71 17 19 46.41
r72 13 15 94.77
r73 6 31 4.7687
r74 6 28 4.7687
r75 5 51 0.00703704
r76 5 6 89.3538
r77 4 24 4.7687
r78 4 20 4.7687
r79 3 46 0.0292308
r80 3 4 89.3538
r81 2 17 4.7687
r82 2 13 4.7687
r83 1 41 0.0292308
r84 1 2 89.3538
.ends

.subckt PM_FULLADDER_noxref_3 1 2 5 8 9
c23 9 0 0.0116939f
c24 8 0 0.0163503f
c25 5 0 0.0106276f
r26 8 9 102.4
r27 4 8 1.35714
r28 4 5 102.4
r29 2 9 0.993846
r30 1 5 0.993846
.ends

.subckt PM_FULLADDER_A 2 4 6 8 19 21 23 24 26 29 33 37 39 41 44 52 56 60 64
c82 64 0 0.00218235f
c83 60 0 0.00296444f
c84 56 0 0.00241977f
c85 52 0 0.00278454f
c86 44 0 0.0436765f
c87 39 0 0.0285942f
c88 37 0 0.0260454f
c89 33 0 0.0401025f
c90 29 0 0.0420266f
c91 24 0 0.0277087f
c92 21 0 0.0260932f
c93 19 0 0.0405442f
c94 8 0 0.00463977f
c95 6 0 0.0043046f
c96 4 0 0.00453949f
c97 2 0 0.0043618f
r98 42 44 108.81
r99 39 41 32.37
r100 35 37 60.45
r101 31 33 122.85
r102 27 29 108.81
r103 24 26 46.41
r104 21 23 46.41
r105 17 19 94.77
r106 8 42 4.7687
r107 8 39 4.7687
r108 8 64 89.3538
r109 6 35 4.7687
r110 6 31 4.7687
r111 6 60 89.3538
r112 4 27 4.7687
r113 4 24 4.7687
r114 4 56 89.3538
r115 2 21 4.7687
r116 2 17 4.7687
r117 2 52 89.3538
.ends

.subckt PM_FULLADDER_CIN_INV 2 11 13 15 16 18 21 23 24 25 36 38 39 47 50 52 58
+ 60
c97 60 0 0.0114383f
c98 58 0 0.010654f
c99 52 0 0.0699068f
c100 50 0 0.00939814f
c101 47 0 0.026461f
c102 39 0 0.00589204f
c103 38 0 0.00316311f
c104 36 0 0.0019076f
c105 23 0 0.023804f
c106 21 0 0.0883489f
c107 16 0 0.057709f
c108 13 0 0.0421066f
c109 11 0 0.0650948f
c110 2 0 0.0229354f
r111 57 60 6.5
r112 57 58 89.3538
r113 53 58 1.16923
r114 52 53 102.4
r115 49 52 6.15179
r116 49 50 102.4
r117 46 49 0.875
r118 46 47 102.4
r119 41 50 0.979231
r120 38 39 89.3538
r121 36 41 0.212317
r122 36 38 0.394615
r123 25 47 2.33846
r124 19 60 1.98872
r125 19 21 94.77
r126 16 60 1.98872
r127 16 18 25.35
r128 13 39 4.7687
r129 13 15 46.41
r130 9 39 4.7687
r131 9 11 94.77
r132 4 23 2.33846
r133 3 4 102.4
r134 2 24 2.33846
r135 1 46 1.35
r136 1 3 0.801786
r137 1 2 102.4
.ends

.subckt PM_FULLADDER_B 2 4 6 15 17 19 20 22 25 29 33 35 37 40 46 49 53 57 61
c81 61 0 0.00218235f
c82 57 0 0.00238318f
c83 53 0 0.00436186f
c84 49 0 0.00453949f
c85 46 0 0.00218235f
c86 40 0 0.0436765f
c87 35 0 0.0285942f
c88 33 0 0.0260454f
c89 29 0 0.0400466f
c90 25 0 0.0646346f
c91 20 0 0.0411854f
c92 17 0 0.0273079f
c93 15 0 0.0420266f
c94 6 0 0.00463977f
c95 4 0 0.00439596f
c96 2 0 0.0064052f
r97 46 49 89.3538
r98 38 40 108.81
r99 35 37 32.37
r100 31 33 60.45
r101 27 29 122.85
r102 23 25 108.81
r103 20 22 46.41
r104 17 49 4.7687
r105 17 19 46.41
r106 13 49 4.7687
r107 13 15 94.77
r108 6 38 4.7687
r109 6 35 4.7687
r110 6 61 89.3538
r111 4 31 4.7687
r112 4 27 4.7687
r113 4 57 89.3538
r114 2 23 4.7687
r115 2 20 4.7687
r116 2 53 89.3538
.ends

.subckt PM_FULLADDER_noxref_7 1 2 3 6 10 12 13
c38 13 0 0.0112207f
c39 12 0 0.0414168f
c40 10 0 0.0121178f
c41 6 0 0.0118738f
r42 12 13 102.4
r43 9 12 1.60714
r44 9 10 102.4
r45 5 9 2.71429
r46 5 6 102.4
r47 3 13 0.993846
r48 2 10 0.993846
r49 1 6 0.993846
.ends

.subckt PM_FULLADDER_NET026 1 2 3 12
c42 12 0 0.0459884f
c43 3 0 0.0139878f
c44 2 0 0.012216f
c45 1 0 0.014206f
r46 12 13 102.4
r47 9 12 1.60714
r48 9 10 102.4
r49 5 9 3.51786
r50 5 6 102.4
r51 3 13 1.38846
r52 2 10 1.38846
r53 1 6 1.38846
.ends

.subckt PM_FULLADDER_SUM_INV 4 8 17 19 22 24 25 26 27 54 59 61
c77 61 0 0.011469f
c78 59 0 0.0159867f
c79 54 0 0.0337184f
c80 25 0 0.028375f
c81 24 0 0.0245003f
c82 22 0 0.0881877f
c83 17 0 0.057709f
c84 8 0 0.0154916f
c85 4 0 0.0173641f
r86 58 61 6.5
r87 58 59 89.3538
r88 55 59 2.33846
r89 54 55 102.4
r90 20 61 1.98872
r91 20 22 94.77
r92 17 61 1.98872
r93 17 19 25.35
r94 8 27 1.16923
r95 7 8 102.4
r96 6 25 3.50769
r97 5 54 2.58214
r98 5 7 0.801786
r99 5 6 102.4
r100 4 26 1.16923
r101 3 4 102.4
r102 2 24 3.50769
r103 1 7 0.805357
r104 1 3 0.801786
r105 1 2 102.4
.ends

.subckt PM_FULLADDER_COUT 1 2 7
c14 1 0 0.0351786f
r15 2 7 2.29462
r16 1 7 2.38231
.ends

.subckt PM_FULLADDER_GND 1 2 3 4 5 7 22 28 34 40 50 54
c69 54 0 0.018913f
c70 53 0 0.00227231f
c71 52 0 0.00227231f
c72 51 0 0.00227231f
c73 50 0 0.00227231f
c74 48 0 0.0101506f
c75 40 0 0.0189228f
c76 34 0 0.068609f
c77 28 0 0.0187925f
c78 22 0 0.041683f
c79 16 0 0.00945492f
c80 7 0 0.0143466f
c81 5 0 0.0308838f
c82 4 0 0.0326249f
c83 3 0 0.0244105f
c84 2 0 0.0263707f
c85 1 0 0.0407264f
r86 42 54 0.0418175
r87 41 53 0.160909
r88 40 54 0.160909
r89 40 41 2.19231
r90 36 53 0.0418175
r91 35 52 0.160909
r92 34 53 0.160909
r93 34 35 8.36
r94 30 52 0.0418175
r95 29 51 0.160909
r96 28 52 0.160909
r97 28 29 2.19231
r98 24 51 0.0418175
r99 23 50 0.160909
r100 22 51 0.160909
r101 22 23 5.36385
r102 18 50 0.0418175
r103 17 48 0.160909
r104 16 50 0.160909
r105 16 17 1.08154
r106 11 48 0.0418175
r107 7 11 0.584615
r108 5 42 3.21538
r109 4 36 3.21538
r110 3 30 3.21538
r111 2 24 2.39692
r112 1 18 3.21538
.ends

.subckt PM_FULLADDER_VDD 2 3 4 5 6 15 18 23 29 35 47
c66 47 0 0.0188553f
c67 46 0 0.00227231f
c68 45 0 0.00227231f
c69 44 0 0.00227231f
c70 43 0 0.0101506f
c71 35 0 0.0189228f
c72 29 0 0.0691041f
c73 23 0 0.0556566f
c74 15 0 0.0186686f
c75 6 0 0.0157173f
c76 5 0 0.0309446f
c77 4 0 0.0295438f
c78 3 0 0.0255658f
c79 2 0 0.0235368f
r80 37 47 0.0418175
r81 36 46 0.160909
r82 35 47 0.160909
r83 35 36 2.19231
r84 31 46 0.0418175
r85 30 45 0.160909
r86 29 46 0.160909
r87 29 30 8.36
r88 25 45 0.0418175
r89 24 44 0.160909
r90 23 45 0.160909
r91 23 24 6.82538
r92 19 44 0.0418175
r93 16 43 0.160909
r94 16 18 1.19846
r95 15 44 0.160909
r96 15 18 0.993846
r97 10 43 0.0418175
r98 6 10 0.584615
r99 5 37 3.21538
r100 4 31 3.21538
r101 3 25 3.21538
r102 2 19 3.21538
.ends

.subckt PM_FULLADDER_SUM 1 2 7
c8 1 0 0.0671233f
r9 2 7 2.39692
r10 1 7 2.28
.ends

