************************************************************************
* auCdl Netlist:
* 
* Library Name:  Lab3Part1
* Top Cell Name: FullAdder
* View Name:     schematic
* Netlisted on:  Apr  9 21:29:57 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Lab3Part1
* Cell Name:    FullAdder
* View Name:    schematic
************************************************************************

.SUBCKT FullAdder A B Cin Cout GND SUM VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O SUM:O
MM29 SUM SUM_INV GND GND NMOS_VTL W=90n L=50n m=1
MM18 net019 Cin SUM_INV GND NMOS_VTL W=180.0n L=50n m=1
MM17 SUM_INV B net019 GND NMOS_VTL W=180.0n L=50n m=1
MM16 SUM_INV A net019 GND NMOS_VTL W=180.0n L=50n m=1
MM15 GND Cin_INV net019 GND NMOS_VTL W=180.0n L=50n m=1
MM14 net044 A GND GND NMOS_VTL W=540.0n L=50n m=1
MM13 net043 B net044 GND NMOS_VTL W=540.0n L=50n m=1
MM12 net019 Cin net043 GND NMOS_VTL W=540.0n L=50n m=1
MM11 Cout Cin_INV GND GND NMOS_VTL W=90n L=50n m=1
MM4 GND B net17 GND NMOS_VTL W=360.0n L=50n m=1
MM3 net17 A net8 GND NMOS_VTL W=360.0n L=50n m=1
MM2 net8 Cin GND GND NMOS_VTL W=180.0n L=50n m=1
MM1 net8 B Cin_INV GND NMOS_VTL W=180.0n L=50n m=1
MM0 Cin_INV A net8 GND NMOS_VTL W=180.0n L=50n m=1
MM28 SUM SUM_INV VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM25 net026 Cin SUM_INV VDD PMOS_VTL W=360.0n L=50n m=1
MM24 net026 B SUM_INV VDD PMOS_VTL W=360.0n L=50n m=1
MM23 SUM_INV A net026 VDD PMOS_VTL W=360.0n L=50n m=1
MM22 VDD Cin_INV net026 VDD PMOS_VTL W=360.0n L=50n m=1
MM21 SUM_INV Cin net041 VDD PMOS_VTL W=540.0n L=50n m=1
MM20 net041 B net042 VDD PMOS_VTL W=540.0n L=50n m=1
MM19 net042 A VDD VDD PMOS_VTL W=540.0n L=50n m=1
MM10 Cout Cin_INV VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM9 Cin_INV A net15 VDD PMOS_VTL W=360.0n L=50n m=1
MM8 net15 B Cin_INV VDD PMOS_VTL W=360.0n L=50n m=1
MM7 VDD Cin net15 VDD PMOS_VTL W=360.0n L=50n m=1
MM6 net16 A VDD VDD PMOS_VTL W=360.0n L=50n m=1
MM5 Cin_INV B net16 VDD PMOS_VTL W=360.0n L=50n m=1
.ENDS

